US08957080B2
A mixture of 3,4-dichlorophenol (38 g, 233.13 mmol, 1.00 equiv), 1-fluoro-2-methoxy-4-nitrobenzene (40 g, 233.75 mmol, 1.00 equiv) and potassium carbonate (64 g, 463.77 mmol, 1.99 equiv) in N,N-dimethylformamide (250 mL) was stirred overnight at 60° C. The resulting solution was diluted with 1000 mL of water, extracted with 3×200 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×500 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum to yield 60 g (82%) of 1,2-dichloro-4-(2-methoxy-4-nitrophenoxy)benzene as a brown solid.

reactant | 3,4-dichlorophenol | 233.13 mmol, 38 g, 1.00 equiv | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | 1-fluoro-2-methoxy-4-nitrobenzene | 233.75 mmol, 40 g, 1.00 equiv | FC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | potassium carbonate | 463.77 mmol, 64 g, 1.99 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | water | 1000 mL | O | H2O
product | 1,2-dichloro-4-(2-methoxy-4-nitrophenoxy)benzene | 60 g, 82% | ClC1=C(C=C(C=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])OC)Cl | C13H9Cl2NO4
